Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.56901002231
[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.2157503829
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.98406730727
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-8.3198450133
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:9][H:10],3.94932180926
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.94179731755
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],-1.57943473145
[H:1][C:2]#[C:3][C:8]([H:5])[C:9]([C:4]#[C:6][H:7])([H:10])[H:11]>>[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11],0.6909648583110001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9].[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],-6.6821347327100025
[H:1][O:2][C:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10].[H:4],1.77065869121
[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.38520543465
[H:1][C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([O:4][C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1],4.33555038519
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],1.90223971866
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1]=[C:2][O:3][H:4],3.75652675171
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11][O:12]1>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[O:12],-2.56422279786
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13].[H:14]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.607149461790001
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7].[O:8][H:9],3.3833396172099994
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.37556924176
[C:1]=[C:2]([O:3][H:4])[O:5][H:6]>>[C:1].[C:2]([O:3][H:4])[O:5][H:6],3.60977627243
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],3.4039510346
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11],4.60236226392
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2],8.3198450133
[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4][O:10][H:11],6.32325828006
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.79350289289
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.5987875072
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.93094401038
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],3.56791763711
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[H:10],3.78342801675
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7](=[O:6])[C:8]([H:9])([H:10])[H:11],-1.49789607446
